US04708954
3.6 g of butylurea was added to 100 ml of anhydrous tetrahydrofuran and the suspension was stirred in an ice-water bath. 4.3 g of oxalyl chloride was added dropwise to the suspension, and the stirring was continued for 30 minutes in an ice-water bath. 100 ml of ethyl acetate and 30 ml of water were added to the reaction mixture and the organic layer was obtained by extraction, The water layer was further extracted with 60 ml of ethyl acetate. The resulting organic layer was dried over anhydrous sodium sulfate and evaporated to dryness, the crude residue was recrystallized from ethyl acetate-hexane to give 5.1 g of 1-butylimidazolidinetrione in the form of colorless needle crystals. The resulting compound was suspended to 400 ml of 0.1N ammonium aqueous solution and stirred for 8 hours at room temperature. Further, 5 ml of 28% ammonium aqueous solution was added to the solution and stirred for 14 hours. The solvent was distilled off under reduced pressure and the residue was dissolved in methanol. 3 ml of conc. hydrochloric acid was added thereto. The solution was concentrated under reduced pressure, and the solid precipitate was filtered off, washed with water sufficiently, and recrystallized from water-methanol to give 1.8 g of 5-butyloxaluric acid (compound 3) in the form of colorless needle crystals.

reactant | butylurea | 3.6 g | C(CCC)NC(=O)N | C5H12N2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 4.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | 1-butylimidazolidinetrione | 5.1 g | C(CCC)N1C(NC(C1=O)=O)=O | C7H10N2O3
